US04607030
(a) 6-(N-Chloroacetylaminomethyl)-5-hydroxyindane
134 g (1 mole) of 5-hydroxyindane and 100 g (0.81 mole) of 2-chloro-N-hydroxymethylacetamide are suspended in 300 ml of glacial acetic acid, and 10 ml of concentrated sulfuric acid are added. The mixture is stirred for 30 minutes at room temperature and is poured into ice water. The product is filtered off with suction and recrystallized from methanol.

reactant | 5-hydroxyindane | 1 mole, 134 g | OC=1C=C2CCCC2=CC1 | C9H10O
reactant | 2-chloro-N-hydroxymethylacetamide | 0.81 mole, 100 g | ClCC(=O)NCO | C3H6ClNO2
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 6-(N-Chloroacetylaminomethyl)-5-hydroxyindane | ClCC(=O)NCC1=C(C=C2CCCC2=C1)O | C12H14ClNO2
